US06855710B2
c) (Z)-3-[1-(4-chlorophenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone
0.5 g (1.5 mmol) of 1-acetyl-3-(1-methoxy-1-phenyl-methylidene)-5-nitro-2-indolinone are dissolved in 20 ml of dichloromethane and after the addition of 0.57 g (4.5 mmol) of 4-chloroaniline stirred for 72 hours at ambient temperature. Then 3 ml of methanolic ammonia are added and stirred for 48 hours. After removal of the solvent in vacuo the residue is triturated with ether, suction filtered and dried.

reactant | 1-acetyl-3-(1-methoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | 1.5 mmol, 0.5 g | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OC)=O | C18H14N2O5
reactant | 4-chloroaniline | 4.5 mmol, 0.57 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | ammonia | 3 ml | N | H3N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (Z)-3-[1-(4-chlorophenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone | ClC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C21H14ClN3O3
